US08076487B2
(1) Production of 2-phenylcarbamoylacetic acid ethyl ester
Ethyl malonyl chloride (15.1 g, 0.10 mol) was added to a mixed solution of aniline (9.3 g, 0.10 mol), triethylamine (11.1 g, 0.11 mol), N,N-dimethylaminopyridine (1.5 g, 0.012 mol) and dichloromethane (300 mL), at 10° C. or below. This mixture was stirred for 3 hours at room temperature, and then poured into water. The organic layer was washed with diluted hydrochloric acid, aqueous saturated sodium bicarbonate and saturated brine, in this order. The obtained organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure, to obtain 19.5 g of a subject compound (yield: 94%).

reactant | Ethyl malonyl chloride | 0.10 mol, 15.1 g | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | aniline | 0.10 mol, 9.3 g | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 0.11 mol, 11.1 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 300 mL | ClCCl | CH2Cl2
reactant | water | O | H2O
product | 2-phenylcarbamoylacetic acid ethyl ester | 19.5 g, yield: 94% | C(C)OC(CC(NC1=CC=CC=C1)=O)=O | C11H13NO3
